US06448397B1
A mixture of 1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one (0.441 g, 1.45 mmol), anhydrous CuCl12 (0.430 mmol, 3.20 mmol), anhydrous LiCl (0.308 g, 7.27 mmol), and DMF (3 mL) is stirred at 65° C. for 50 h. After cooling, the mixture is stored in the refrigerator overnight and then partitioned between CH2C2 and brine. The organic layers are dried over sodium sulfate and taken to dryness. Chromatography on silica gel gel (60 mL) using ethyl acetate/CH2Cl2/hexane (5:45:50) gave 0.349 g (71%) of 8-chloro-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one (mixture of diastereomers).

reactant | 1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one | 1.45 mmol, 0.441 g | C1(=CC=CC=C1)C1COC=2C=CC=C3C=4C(CCCC4N1C23)=O | C20H17NO2
reactant | LiCl | 7.27 mmol, 0.308 g | [Li+].[Cl-]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 8-chloro-1-phenyl-1,2,9,10-tetrahydro[1,4]oxazino[2,3,4-jk]carbazol-7(8H)-one | 0.349 g, 71% | ClC1CCC=2N3C4=C(C=CC=C4C2C1=O)OCC3C3=CC=CC=C3 | C20H16ClNO2
